US04632925
Preparation of 3-[9-[4-(2,2-Diphenylethenyl)-1-piperidinyl]nonyl]pyridine
The title compound was prepared in a manner similar to that employed for the compound of Example 16 starting with 6.5 g of 4-(2,2-diphenylethenyl)-1-[1-oxo-9-(3-pyridinyl)nonyl]piperidine and 7.7 mL of a 3.5M solution of sodium bis(2-methoxyethoxy)aluminum hydride in toluene. The analytically pure base was obtained from hexane, mp 51°-53° C. Analysis Calculated for C33H42N2 : C. 84.93; H, 9.07; N, 6.00. Found: C, 85.20; H, 9.00; N, 6.05. Evaporation of the hexane filtrates provided 5.9 g of crude product, which was dissolved in 25 mL of hot methanol and treated with 1.47 g of fumaric acid. The methanol was removed by distillation while adding acetone and the resulting solids were recovered and recrystallized from methanol/acetone to give 6.7 g (85%) of pure fumarate salt of 3-[9-[4-(2,2-diphenylethenyl)-1-piperidinyl]nonyl]pyridine, mp 125°-127° C. Analysis Calculated for C33H42N2.C4H4O4 : C, 76.26; H, 7.96; N, 4.81. Found: C, 76.54; H, 7.92; N, 4.90.

reactant | 4-(2,2-diphenylethenyl)-1-[1-oxo-9-(3-pyridinyl)nonyl]piperidine | 6.5 g | C1(=CC=CC=C1)C(=CC1CCN(CC1)C(CCCCCCCCC=1C=NC=CC1)=O)C1=CC=CC=C1 | C33H40N2O
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | hexane | CCCCCC | C6H14
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[9-[4-(2,2-Diphenylethenyl)-1-piperidinyl]nonyl]pyridine | C1(=CC=CC=C1)C(=CC1CCN(CC1)CCCCCCCCCC=1C=NC=CC1)C1=CC=CC=C1 | C33H42N2
